US04933355
Ethyl 2-isopropylaminothiazole-4-carboxylate
The reaction described in Preparation 42 was repeated, but using 3.7 g of isopropylthiourea, 7.4 g of ethyl bromopyruvate and 50 ml of ethanol, giving the title compound as a pale yellow oil.

reactant | isopropylthiourea | 3.7 g | C(C)(C)NC(=S)N | C4H10N2S
reactant | ethyl bromopyruvate | 7.4 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 2-isopropylaminothiazole-4-carboxylate | C(C)(C)NC=1SC=C(N1)C(=O)OCC | C9H14N2O2S
